US07094865B2
Racemic 2-n-hexyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine was synthesized by transetherification of 3,4-dimethoxythiophene with racemic 1,2-octanediol as described in EXAMPLE 1. It was characterized by GC-MS and 1H-NMR-spectroscopy, and exhibited no optical rotation.

reactant | 3,4-dimethoxythiophene | COC1=CSC=C1OC | C6H8O2S
reactant | racemic 1,2-octanediol | C(C(CCCCCC)O)O | C8H18O2
product | Racemic 2-n-hexyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine | C(CCCCC)C1COC=2C(O1)=CSC2 | C12H18O2S
